US08314250B2
Step 6: 2-(3-{[(6-Chloro-2-fluoro-3-methoxy-benzyl)-((S)-1-dimethylaminomethyl-3,3-dimethyl-butyl)-amino]-methyl}-benzyl)-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid
2-(3-{[(6-Chloro-2-fluoro-3-methoxy-benzyl)-((S)-1-dimethylaminomethyl-3,3-dimethyl-butyl)-amino]-methyl}-benzyl)-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid ethyl ester (0.865 g, 1.4 mmol) was dissolved in tetrahydrofuran (5.6 mL). Water (5.6 mL) and lithium hydroxide (0.050 g, 2.07 mmol) and methanol (1.2 mL) were added. The reaction was stirred at room temperature for 2.5 hours after which the reaction was concentrated under reduced pressure. To the residue was added dichloromethane and aqueous hydrochloric acid (pH˜7) resulting in an emulsion. The reaction was then concentrated to dryness under reduced pressure. The crude material was purified by supercritical fluid chromatography into the corresponding Epimer 1 and Epimer 2 of 2-(3-{[(6-Chloro-2-fluoro-3-methoxy-benzyl)-((S)-1-dimethylaminomethyl-3,3-dimethyl-butyl)-amino]-methyl}-benzyl)-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid (0.084 g (Epimer 1) and 0.089 g (Epimer 2), respectively, 99% (combined yield)).

reactant | 2-(3-{[(6-Chloro-2-fluoro-3-methoxy-benzyl)-((S)-1-dimethylaminomethyl-3,3-dimethyl-butyl)-amino]-methyl}-benzyl)-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid ethyl ester | 1.4 mmol, 0.865 g | C(C)OC(=O)C1N(S(CC1)(=O)=O)CC1=CC(=CC=C1)CN([C@@H](CC(C)(C)C)CN(C)C)CC1=C(C(=CC=C1Cl)OC)F | C31H45ClFN3O5S
reactant | Water | 5.6 mL | O | H2O
reactant | lithium hydroxide | 2.07 mmol, 0.050 g | [OH-].[Li+]
reactant | methanol | 1.2 mL | CO | CH4O
solvent | tetrahydrofuran | 5.6 mL | O1CCCC1 | C4H8O
product | 2-(3-{[(6-Chloro-2-fluoro-3-methoxy-benzyl)-((S)-1-dimethylaminomethyl-3,3-dimethyl-butyl)-amino]-methyl}-benzyl)-1,1-dioxo-1λ6-isothiazolidine-3-carboxylic acid | ClC1=CC=C(C(=C1CN([C@@H](CC(C)(C)C)CN(C)C)CC=1C=C(CN2S(CCC2C(=O)O)(=O)=O)C=CC1)F)OC | C29H41ClFN3O5S
